* C:\users\pablo\Mis Documentos\TC2\presentaciones_jupiter\tarea1\tarea1.asc
XU1 N001 N002 Vo opamp Aol=10Meg GBW=10000000Meg
R1 N001 Vi 1k
R2 Vo N001 1k
R3 N002 0 1k
C1 N002 Vi 1µ
V1 Vi 0 SINE() AC 1
.inc opamp.sub
.ac dec 10 1.6 16k
.backanno
.end
